US07153805B2
In this experiment, a 30/70 isoprene-butadiene rubber (IBR) was prepared using a preformed catalyst described in Example 13. The procedure described in Example 14 was utilized in this example except that a premix containing a 30:70 mixture of isoprene and 1,3-butadiene was used as the monomers. GC analysis of the residual monomer indicated that 90 percent of monomers were consumed after 9 minutes. The polymerization was continued for an additional 21 minutes.

reactant | isoprene | C=CC(C)=C | C5H8
reactant | 1,3-butadiene | C=CC=C | C4H6
product | isoprene butadiene | C=CC(C)=C.C=CC=C | InChI=1S/C5H8.C4H6/c1-4-5(2)3;1-3-4-2/h4H,1-2H2,3H3;3-4H,1-2H2
